US05158947
REFERENCE EXAMPLE 1 Preparation of 4-(5-bromopentyl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-5-one
In 20 ml of dimethylformamide (DMF) was dissolved 100 mg of 2,3,4,5-tetrahydro-1,4-benzoxazepin-5-one, and the solution then ice-cooled. Then, to the resulting solution were added 0.251 ml (3 equivalents) of 1,5-dibromopentane and 29.4 mg (1.2 equivalent) of a 60% sodium hydride oil dispersion, and the mixture was stirred for one hour with ice-cooling. The reaction solution was poured into a citric acid aqueous solution and extracted with ethyl acetate, and the ethyl acetate phase was washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then filtered. The filtrate was then concentrated and the resulting residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (8:2)) to give 124 mg (yield: 65.0%) of the title compound.

reactant | 2,3,4,5-tetrahydro-1,4-benzoxazepin-5-one | 100 mg | O1CCNC(C2=C1C=CC=C2)=O | C9H9NO2
reactant | 1,5-dibromopentane | 0.251 ml, 3 equivalents | BrCCCCCBr | C5H10Br2
reactant | sodium hydride oil dispersion | [H-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(5-bromopentyl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-5-one | 124 mg, yield: 65.0% | BrCCCCCN1CCOC2=C(C1=O)C=CC=C2 | C14H18BrNO2
